US05306692
Glacial acetic acid (40cm3) containing concentrated sulphuric acid (3 drops) was added to a stirred mixture of 4-(2-chloro-4-trifluoromethyl-6-fluorophenoxy)-2-nitroaniline (1 g), paraformaldehyde (0.26 g), anhydrous zinc chloride (1.43 g) and potassium cyanide (0.56 g). The resulting suspension was heated at 50°-55° C. for 7.5 hours and left to stand at room temperature overnight. The mixture was poured into water and extracted with ethyl acetate (×2). The combined organic phase was washed with water, dried (MgSO4), and filtered. The solvent was removed from the filtrate under vacuum to give 4-(2-chloro-4-trifluoromethyl-6-fluorophenoxy)-2-nitro-N-cyanomethylaniline (0.82 g) as an orange solid. M+ =389.

reactant | acetic acid | 40cm3 | C(C)(=O)O | C2H4O2
reactant | 4-(2-chloro-4-trifluoromethyl-6-fluorophenoxy)-2-nitroaniline | 1 g | ClC1=C(OC2=CC(=C(N)C=C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)F | C13H7ClF4N2O3
reactant | paraformaldehyde | 0.26 g | C=O | CH2O
reactant | potassium cyanide | 0.56 g | [C-]#N.[K+]
catalyst | sulphuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
catalyst | zinc chloride | 1.43 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 4-(2-chloro-4-trifluoromethyl-6-fluorophenoxy)-2-nitro-N-cyanomethylaniline | 0.82 g | ClC1=C(OC2=CC(=C(NCC#N)C=C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)F | C15H8ClF4N3O3
